US05300506
1-(5-Methoxy-4-pyrimidinyl)-2-methylpiperazine
A solution of 1-(t-butoxycarbonyl)-4-(5-methoxy-4-pyrimidinyl)-3-methylpiperazine (1.70 g, 4.2 mmol) and trifluoroacetic acid (5 mL) in 50 mL of CH2Cl2 was stirred at r.t. under Ar for 18 h. The solution was evaporated, the residue was taken up in water and the mixture was basified (pH8) with 15% aqueous NaOH. The resulting (pH 8) mixture was extracted with ethyl acetate and the organic phase was washed (H2O, brine), dried (Na2SO4) and evaporated to give a semi-solid. This material was taken up in ether, filtered to remove insoluble material and the solution was evaporated to give the product (0.80 g, 92%) as an oil. It was used without further purification: IR (neat) 3300, 1580, 1540 cm-1 ; 1H nmr (200 MHz, CDCl3) δ8.32 (s, 1H), 7.87 (s, 1H), 4.83-4.68 (m, 1H), 4.26-4.19 (m, 1 H), 3.85 (s, 3H), 3.26-3.17 (m, 1H), 3.12-3.01 (m, 2H), 2.94-2.80 (m, 2H), 1.29 (d, J=6.8 Hz, 3H).

reactant | 1-(t-butoxycarbonyl)-4-(5-methoxy-4-pyrimidinyl)-3-methylpiperazine | 4.2 mmol, 1.70 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=NC=NC=C1OC)C | C15H24N4O3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-(5-Methoxy-4-pyrimidinyl)-2-methylpiperazine | 0.80 g, 92% | COC=1C(=NC=NC1)N1C(CNCC1)C | C10H16N4O
